US07652049B2
Step C: 2-amino-1-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]ethanol
To a solution of 0.679 g of 5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-carbaldehyde in 1.5 mL of CH2Cl2 was added ca. 5 mg of ZnI2, then 0.23 g of trimethylsilyl cyanide. The mixture was stirred at room temperature for 3 h, and then partitioned between 15 mL of water and 10 mL of Et2O. The aqueous phase was extracted with 2×10 mL of Et2O. The combined organics were dried over Na2SO4 and concentrated. The residue was dissolved in 15 mL of Et2O and cooled to 0° C. A 1-M solution of LiAlH4 in Et2O (4.2 mL) was added dropwise via addition funnel. The cooling bath was removed once the addition was complete, and the mixture was stirred overnight at room temperature, then recooled to 0° C. and quenched by dropwise addition of 0.15 mL of water, 0.15 mL of 15% aqueous NaOH, and 0.4 mL of water. The cooling bath was removed once the addition was complete, and the mixture was stirred 30 min at room temperature, filtered (washing the solids liberally with Et2O), and concentrated to provide the title compound, which was used without further purification. Mass spectrum (ESI) 354.2 (M+1). Some 1H NMR signals are doubled because of atropoisomerism. 1H NMR (500 MHz, CDCl3): δ 7.88 (s, 1H), 7.55 (app t, J=7.5 Hz, 1H), 7.22-7.28 (m, 2H), 6.99, 6.95 (d, J=2.5 Hz, 1H), 6.92, 6.90 (sm 1H), 4.52 (m, 1H), 3.70 (s, 3H), 2.90 (septet, J=7 Hz, 1H), 2.81 (m, 1H), 2.60-2.70 (m, 2H), 1.23-1.28 (m, 6H).

reactant | 5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-carbaldehyde | 0.679 g | C(C)(C)C=1C=CC(=C(C1)C=1C(=CC(=CC1)C(F)(F)F)C=O)OC | C18H17F3O2
reactant | trimethylsilyl cyanide | 0.23 g | C[Si](C)(C)C#N | C4H9NSi
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
catalyst | ZnI2 | ca. 5 mg | [Zn+2].[I-].[I-]
product | 2-amino-1-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]ethanol | NCC(O)C1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC | C19H22F3NO2
